US06051712
A solution of 2.3 g (11.4 mmol) of methyl 1-hydroxy-naphthalene-2-carboxylate in 15 ml of dry tetrahydrofuran was treated with 0.51 g (17 mmol) of sodium hydride (80%) and subsequently 2.13 g of 2-methoxyethoxymethyl chloride were added dropwise while cooling with ice. After 3 hours at room temperature the solution was extracted with aqueous sodium hydrogen carbonate solution and the organic phase was separated, dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 9:1 mixture of methylene chloride and ether as the eluent. In addition to 1.55 g of starting material there were obtained 1.2 g of methyl 1-(2-methoxy-ethoxymethyl)-naphthalene-2-carboxylate; MS: 290 (M)+.

reactant | methyl 1-hydroxy-naphthalene-2-carboxylate | 11.4 mmol, 2.3 g | OC1=C(C=CC2=CC=CC=C12)C(=O)OC | C12H10O3
reactant | sodium hydride | 17 mmol, 0.51 g | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 2.13 g | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 1-(2-methoxy-ethoxymethyl)-naphthalene-2-carboxylate | 1.2 g | COCCOCC1=C(C=CC2=CC=CC=C12)C(=O)OC | C16H18O4
